US04760140
(6R-trans)-3-[(Acetyloxy)methyl]-7-[(5-benzoyl-2-thiazolyl)amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester
A mixture of 720 mg of (6R-trans)-3-[(acetyloxy)methyl]-7-[[[[(dimethylamino)methylene]amino]thioxomethyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester, 260 mg of 2-bromo-1-phenylethanone and 90 mg of potassium carbonate in 15 ml of dry acetonitrile was stirred for about 1 hour, then filtered and the filtrate evaporated, giving 526 mg of the desired product.

reactant | (6R-trans)-3-[(acetyloxy)methyl]-7-[[[[(dimethylamino)methylene]amino]thioxomethyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester | 720 mg | C(C)(=O)OCC1=C(N2C([C@H]([C@H]2SC1)NC(=S)N=CN(C)C)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H28N4O5S2
reactant | 2-bromo-1-phenylethanone | 260 mg | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | potassium carbonate | 90 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | (6R-trans)-3-[(Acetyloxy)methyl]-7-[(5-benzoyl-2-thiazolyl)amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester | 526 mg | C(C)(=O)OCC1=C(N2C([C@H]([C@H]2SC1)NC=1SC(=CN1)C(C1=CC=CC=C1)=O)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C33H27N3O6S2
